US07615642B2
(2R)-4-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-N-methylmorpholine-2-carboxamide
Following the same procedure in Example 112, Step A, using 4-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)morpholine-2-carboxylic acid (500 mg, 1 mmol), N,N-diisopropylethylamine (1 mL, 5 mmol), methylamine (0.75 mL, 2.0M in THF, 1.5 mmol) and HATU (456 mg, 1.2 mmol) in DMF (10 mL). The crude product was purified by LCMS using high pH column 40-70% acetonitrile gradient to give 400 mg (78% yield) as white solid racemic mixture of the title compound. The two enantiomers were separated on a chiral OD 5 microns column using 20% ethanol:hexane. [α]D: +37.4 (c=1.00, MeOH). 1H NMR (400 MHz, METHANOL-D4) δ 1.37-1.46 (m, 2 H), 1.48 (s, 9 H), 1.53-1.73 (m, 4 H), 1.88-2.01 (m, 2 H), 2.04-2.18 (m, 2 H), 2.29 (m, 1 H), 2.59 (s, 3 H), 3.43-3.49 (m, 1 H), 3.59 (m, 1 H), 3.77-3.85 (m, 1 H), 3.87-3.96 (m, 2 H), 4.30 (d, J=7.62 Hz, 2 H), 7.54 (dd, J=8.69, 1.66 Hz, 1 H), 7.67 (d, J=8.59 Hz, 1 H), 7.93 (d, J=1.76 Hz, 1 H); MS (APPI) (M+H)+=513.3; Anal. Calc. for C24H34F2N4O4S+1.5 TFA: C, 47.44; H, 5.23; N, 8.20. Found: C, 47.54; H, 4.91; N, 8.00.

reactant | 4-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)morpholine-2-carboxylic acid | 1 mmol, 500 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2CC(OCC2)C(=O)O | C23H31F2N3O5S
reactant | N,N-diisopropylethylamine | 5 mmol, 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylamine | 1.5 mmol, 2.0M, 0.75 mL | CN | CH5N
reactant | HATU | 1.2 mmol, 456 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2R)-4-({2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)-N-methylmorpholine-2-carboxamide | 78% yield | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@@H](OCC2)C(=O)NC | C24H34F2N4O4S
